US08071651B2
a) (S)-6-Oxaspiro[2.5]octane-1-carboxamide
18.85 g of carbonyldiimidazole are added to a solution of 17.66 g of (S)-6-oxaspiro[2.5]-octane-1-carboxylic acid (prepared in analogy to building block FFFFa from (R)-4-benzyl-3-((S)-6-oxaspiro[2.5]-octane-1-carbonyl)oxazolidin-2-one (building block FFFFb)) in 330 ml of ethyl acetate. The reaction solution is left to stand at room temperature for 6 hours and then 330 ml of 25% ammonium hydroxide solution are added. The reaction mixture is stirred at room temperature for 16 hours, the phases are separated, and the aqueous phase is extracted with ethyl acetate. The combined organic phases are washed with water until neutral, dried with sodium sulphate and evaporated. The title compound is obtained from the residue by flash chromatography (SiO2 60 F) as a yellowish oil which may crystallize if sufficiently pure. Rf=0.28 (dichloromethane-methanol-conc. ammonia 25% 200:20:1).

reactant | carbonyldiimidazole | 18.85 g | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | (S)-6-oxaspiro[2.5]-octane-1-carboxylic acid | 17.66 g | [C@@H]1(CC12CCOCC2)C(=O)O | C8H12O3
reactant | ammonium hydroxide | 330 ml | [OH-].[NH4+]
solvent | ethyl acetate | 330 ml | C(C)(=O)OCC | C4H8O2
product | (S)-6-Oxaspiro[2.5]octane-1-carboxamide | [C@@H]1(CC12CCOCC2)C(=O)N | C8H13NO2
